US09382238B2
A solution of 2-(4-bromo-3-fluorophenyl)acetic acid (50 mg, 0.215 mmol), 4-(3-((tert-butyl dimethylsilyl)oxy)-2,2-dimethylpropyl)-3-(trifluoromethyl)aniline (78 mg, 0.215 mmol), DIEA (83 mg, 0.644 mmol), HOBt (49.3 mg, 0.322 mmol) and EDC hydrochloride (61.7 mg, 0.322 mmol) in DCM (20 mL) was stirred at 20° C. for 16 h. The mixture was washed with H2O (20 mL) and brine (20 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=3/1) to yield 2-(4-bromo-3-fluorophenyl)-N-(4-(3-((tert-butyldimethylsilyl)oxy)-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide (80 mg, 0.132 mmol, 61.4% yield): 1H NMR (400 MHz, CD3OD) δ 7.83 (d, J=2.0 Hz, 1H), 7.61 (d, J=6.6 Hz, 1H), 7.49 (t, J=7.7 Hz, 1H), 7.35 (d, J=8.6 Hz, 1H), 7.15 (dd, J=9.7, 1.8 Hz, 1H), 7.01 (d, J=6.8 Hz, 1H), 3.62 (s, 2H), 2.70 (s, 2H), 2.07 (s, 2H), 0.86 (s, 9H), 0.76-0.69 (m, 6H), 0.05-0.02 (m, 6H); ES-LCMS m/z 576.0 (M+H).

reactant | 2-(4-bromo-3-fluorophenyl)acetic acid | 0.215 mmol, 50 mg | BrC1=C(C=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | 4-(3-((tert-butyl dimethylsilyl)oxy)-2,2-dimethylpropyl)-3-(trifluoromethyl)aniline | 0.215 mmol, 78 mg | [Si](C)(C)(C(C)(C)C)OCC(CC1=C(C=C(N)C=C1)C(F)(F)F)(C)C | C18H30F3NOSi
reactant | DIEA | 0.644 mmol, 83 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.322 mmol, 49.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 0.322 mmol, 61.7 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-3-fluorophenyl)-N-(4-(3-((tert-butyldimethylsilyl)oxy)-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide | 0.132 mmol, 80 mg, 61.4% yield | BrC1=C(C=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(CO[Si](C)(C)C(C)(C)C)(C)C)C(F)(F)F)F | C26H34BrF4NO2Si
